US20010021718A1
(3R)-6-Cyclohexyl-N-hydroxy-3-(3-([4-(4-pyridinyl)-1-piperidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanamide
A solution of (3R)-6-cyclohexyl-3-(3-{[4-(4-pyridinyl)-1-piperidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic acid (Preparation 32) (311 mg, 0.68 mmol) and N-methylmorpholine (83 μl, 0.75 mmol) in N,N-dimethylformamide (15 ml) was cooled to 0° C., treated dropwise with isobutyl chloroformate (98 μl, 0.75 mmol) and the resulting solution was stirred at 0° C. for 45 minutes. Hydroxylamine hydrochloride (142 mg, 2.05 mmol) was then added followed by further N-methylmorpholine (226 μl, 2.05 mmol) and the mixture was stirred for 18 hours being allowed to warm to room temperature over this time. The solvent was removed under reduced pressure and the residue partitioned between ethyl acetate (50 ml) and water (50 ml). The layers were separated and the aqueous phase extracted with ethyl acetate (×2). The combined organic phases were washed with brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by HPLC to afford a residue that was partitioned between ethyl acetate and water. The organic phase was separated, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was triturated with diethyl ether to yield the title compound as a white solid (94 mg).

reactant | (3R)-6-cyclohexyl-3-(3-{[4-(4-pyridinyl)-1-piperidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic acid | 0.68 mmol, 311 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)N1CCC(CC1)C1=CC=NC=C1 | C25H34N4O4
reactant | N-methylmorpholine | 0.75 mmol, 83 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.75 mmol, 98 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | Hydroxylamine hydrochloride | 2.05 mmol, 142 mg | Cl.NO
reactant | N-methylmorpholine | 2.05 mmol, 226 μl | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (3R)-6-Cyclohexyl-N-hydroxy-3-(3-([4-(4-pyridinyl)-1-piperidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanamide | 94 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)N1CCC(CC1)C1=CC=NC=C1 | C25H35N5O4
